US05744627
Methyl 4-methylsalicylate (98.1 g 590 mmoles) was dissolved in carbon tetrachloride (600 ml), and N-bromosuccinimide (105.0 g, 590 mmoles) and benzoyl peroxide (0.7 g, 3 mmoles) were added. The mixture was refluxed under nitrogen. After 2 hours, an additional portion (0.7 g) of N-bromosuccinimide was added. Reflux was continued for 16 hours. The reaction mixture was cooled to room temperature and the solid removed by filtration. The yellow filtrate was evaporated to dryness to afford a thick yellow syrup that solidified on standing. Hexanes (500 mL) was addedto the solid, and the mixture was boiled until almost all solids dissolved.The hot hexanes solution was filtered and concentrated until a solid just began to precipitate. The mixture was heated to dissolve the solid, and the solution was allowed to cool slowly to room temperature. Pale yellow crystals formed slowly. The mixture was then chilled in ice for 2 hours tocomplete crystallization. Finally, the solid was filtered, washed with coldhexanes (100 mL), and dried in vacuo to afford 83.5 g (58% yield) of methyl4-bromomethyl-salicylate (m.p. 73°-75° C., open capillary, uncorrected).

reactant | Methyl 4-methylsalicylate | 590 mmoles, 98.1 g | CC=1C=C(C(C(=O)OC)=CC1)O | C9H10O3
reactant | N-bromosuccinimide | 590 mmoles, 105.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 3 mmoles, 0.7 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | N-bromosuccinimide | 0.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | methyl4-bromomethyl-salicylate | 83.5 g, 58% yield | COC(C=1C(O)=CC(=CC1)CBr)=O | C9H9BrO3
